US08198279B2
1-(4-(2-amino-3-nitropyridin-4-yloxy)-2-fluorophenyl)-3-(2-fluoro-5-(trifluoro-methyl)phenyl)urea
Using Method F2 with 4-(4-amino-3-fluorophenoxy)-3-nitropyridin-2-amine and 2-fluoro-5-trifluoromethylphenyl isocyanate, the title compound was obtained (yield 85%).

reactant | 4-(4-amino-3-fluorophenoxy)-3-nitropyridin-2-amine | NC1=C(C=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C=C1)F | C11H9FN4O3
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(4-(2-amino-3-nitropyridin-4-yloxy)-2-fluorophenyl)-3-(2-fluoro-5-(trifluoro-methyl)phenyl)urea | yield 85% | NC1=NC=CC(=C1[N+](=O)[O-])OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F)F | C19H12F5N5O4
